US04644076
In a summary of the process shown in FIG. 1, liquid trimethylchlorosilane (TMCS) and gaseous ammonia are fed to the first of a set of two or more reactors where they combine to form "crude" HMDS and an ammonium chloride by-product slurry. As set forth below, the first stage of the set of two or more reactors is a high shear vessel in which the TMCS and ammonia mixture is subjected to continuous high shear agitation in a recirculating reactor loop. Ammonium chloride produced as a by-product is in a "prilled" form in the resultant slurry. The slurry is then optionally fed to a second high shear reactor to insure that a complete reaction of all TMCS occurs. Then, the slurry is passed to a centrifuge where the ammonium chloride crystals are removed. In the centrifuge, HMDS is removed from the solid ammonium chloride particles in the centrifuge cake by displacement of the HMDS with a non-reactive wash. Suitable washes may be hydrocarbons or a buffered saturated ammonium chloride water solution. The HMDS liquid filtrate passes on to a mix tank where solid sodium amide is added.

reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | ammonia | N | H3N
product | HMDS | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
